US07893060B2
2-(5-Chloro-7-morpholin-4-yl-thiazolo[4,5-d]pyrimidin-2-ylmethyl)-2,7-diaza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester
Prepared according to the method used in the preparation of 5-(5-chloro-7-morpholin-4-yl-thiazolo[4,5-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester using 2,7-diaza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester in place of hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester. The title compound was obtained as a white solid (46.4 mg, 72%).

reactant | 5-(5-chloro-7-morpholin-4-yl-thiazolo[4,5-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC=1SC2=C(N=C(N=C2N2CCOCC2)Cl)N1 | C21H29ClN6O3S
reactant | 2,7-diaza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CNC2)CC1 | C12H22N2O2
product | 2-(5-Chloro-7-morpholin-4-yl-thiazolo[4,5-d]pyrimidin-2-ylmethyl)-2,7-diaza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CN(C2)CC=2SC3=C(N=C(N=C3N3CCOCC3)Cl)N2)CC1 | C22H31ClN6O3S
